US08471005B2
Analogous to Example 1510b, 7-(3-tert-Butoxymethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol (109 mg, 0.37 mmol) and 3-Morpholin-4-yl-phenylamine (0.0818 g, 0.459 mmol) were reacted to afford [7-(3-tert-Butoxymethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(3-morpholin-4-yl-phenyl)-amine as an orange foam (95 mg, 56%). LCMS: 458 (M+H); 1H-NMR (DMSO-d6): 9.30 (s, 1H), 8.97 (s, 1H), 8.06 (s, 1H), 7.98 (d, 1H, J=7.74 Hz), 7.46 (t, 1H, J=7.74), 7.36 (d, 1H, 7.74 Hz), 7.30 (s, 1H), 7.28 (d, 1H, J=9.68 Hz), 7.15 (d, 1H, J=8.07 Hz), 7.12 (d, 1H, J=4.84 Hz), 6.95 (d, 1H, J=4.84 Hz), 4.48 (s, 2H), 3.65 (t, 4H, J=4.58 Hz), 2.95 (t, 4H, J=4.58 Hz), 1.22 (s, 9H).

reactant | 7-(3-tert-Butoxymethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol | 0.37 mmol, 109 mg | C(C)(C)(C)OCC=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)O | C17H19N3O2
reactant | 3-Morpholin-4-yl-phenylamine | 0.459 mmol, 0.0818 g | N1(CCOCC1)C=1C=C(C=CC1)N | C10H14N2O
product | [7-(3-tert-Butoxymethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(3-morpholin-4-yl-phenyl)-amine | 95 mg, 56% | C(C)(C)(C)OCC=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)NC2=CC(=CC=C2)N2CCOCC2 | C27H31N5O2
